US05478851
2-(N-Benzoyl-N-methylamino)ethanol
Ethyl benzoate (16.0 g, 15.3 ml) was dissolved in 2-(N-methylamino)ethanol (200 ml) and the mixture heated at reflux for 17.5 hours, cooled and diluted with water (1 l). The mixture was extracted with dichloromethane (4×200 ml), and the combined dichloromethane solutions washed with brine (300 ml), dried (MgSO4) and evaporated. The title compound, an oil, was used without further purification.

reactant | Ethyl benzoate | 15.3 ml, 16.0 g | C(C1=CC=CC=C1)(=O)OCC | C9H10O2
reactant | 2-(N-methylamino)ethanol | 200 ml | CNCCO | C3H9NO
solvent | water | 1 l | O | H2O
product | 2-(N-Benzoyl-N-methylamino)ethanol | C(C1=CC=CC=C1)(=O)N(C)CCO | C10H13NO2
